US06964974B2
In analogy to example 1.4 and 1.5, reaction of 4-(4-Brom-butoxy)-piperidine hydrogen chloride with (4-chloro-phenyl)-acetyl chloride and 2-ethylamino-ethanol yielded 2-(4-Chloro-phenyl)-1-(4-{4-[ethyl-(2-hydroxy-ethyl)-amino]-butoxy}-piperidin-1-yl)-ethanone, MS: 397 (MH+).

reactant | 4-(4-Brom-butoxy)-piperidine hydrogen chloride | Cl.BrCCCCOC1CCNCC1
reactant | (4-chloro-phenyl)-acetyl chloride | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
reactant | 2-ethylamino-ethanol | C(C)NCCO | C4H11NO
product | 2-(4-Chloro-phenyl)-1-(4-{4-[ethyl-(2-hydroxy-ethyl)-amino]-butoxy}-piperidin-1-yl)-ethanone | ClC1=CC=C(C=C1)CC(=O)N1CCC(CC1)OCCCCN(CCO)CC | C21H33ClN2O3
